US08349880B2
Step T (1): A mixture of 2,4-dimethyl-1H-imidazole (5.00 g, 52.0 mmol), 1,2-difluoro-4-nitrobenzene (8.27 g, 52.0 mmol), and sodium bicarbonate (4.37 g, 52.0 mmol) in DMSO (100 mL) was heated at 80° C. for 24 h. The reaction mixture was allowed to cool to rt and was poured into water (800 mL). The aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic extracts were sequentially washed with water (500 mL) and brine solution (100 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The dark residue was dissolved in ethyl acetate (200 mL). Hexane (50 mL) was added to the solution. The resulting mixture was allowed to age for 72 h at rt. The resulting solid was collected by vacuum filtration. The solid was dried under high vacuum to afford 1-(2-fluoro-4-nitrophenyl)-2,4-dimethyl-1H-imidazole (6.68 g, 27.8 mmol, 54% yield) as a yellow crystalline solid. LC-MS (M+H)+=236.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.13-8.22 (m, 2 H), 7.51 (dd, J=8.9, 7.3 Hz, 1 H), 6.72 (s, 1 H), 2.28-2.36 (m, 3 H), 2.22-2.28 (m, 3 H).

reactant | 2,4-dimethyl-1H-imidazole | 52.0 mmol, 5.00 g | CC=1NC=C(N1)C | C5H8N2
reactant | 1,2-difluoro-4-nitrobenzene | 52.0 mmol, 8.27 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | sodium bicarbonate | 52.0 mmol, 4.37 g | C([O-])(O)=O.[Na+]
reactant | water | 800 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 1-(2-fluoro-4-nitrophenyl)-2,4-dimethyl-1H-imidazole | 27.8 mmol, 6.68 g, 54% yield | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC(=C1)C)C | C11H10FN3O2
